US08541575B2
1-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]ethanone
320 mg (1.39 mmol) of 1-[3-(3-nitrophenyl)-1H-pyrazol-4-yl]ethanone were dissolved with 15 ml of dry dimethylformamide and 540 mg (1.66 mmol) of cesium carbonate and 189 μl (1.39 mmol) of p-methoxybenzyl chloride were added. The reaction mixture was maintained at 70° C. under stirring for 8 hours. The solvent was then removed under reduced pressure and the residue taken up with dichloromethane and washed with water. The organic layer was dried over sodium sulphate and evaporated. The crude was finally purified by flash-chromatography on a silica gel column (cyclohexane-ethylacetate; from 4/1 to 3/2), giving 470 mg (97%) of the title compound.

reactant | 1-[3-(3-nitrophenyl)-1H-pyrazol-4-yl]ethanone | 1.39 mmol, 320 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC=C1C(C)=O | C11H9N3O3
reactant | cesium carbonate | 1.66 mmol, 540 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | p-methoxybenzyl chloride | 1.39 mmol, 189 μl | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]ethanone | 470 mg, 97% | COC1=CC=C(CN2N=C(C(=C2)C(C)=O)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C19H17N3O4
